US05663440
In a 1-liter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 33.3 g of aluminum chloride and 200 milliliters of 1,2-dichloroethane were mixed and then 40.8 g of paranitrobenzoyl chloride was introduced with ice cooling to be dissolved. Then, a solution of 23.6 g of 1,6-diphenylhexane in 50 milliliters of 1,2-dichloroethane was added dropwise for 30 minutes. After the end of the dropwise adding, the solution was stirred for 3 hours with warming back to the room temperature. After the end of reaction was confirmed by a liquid chromatography, the reaction solution was poured in 500 milliliters of ice water, and then extracted with 1.8 liters of chloroform. The solution was washed with an aqueous solution of sodium hydrogencarbonate and water, and then dried with magnesium sulfate. Chloroform was removed off by a rotary evaporator, and then 56.0 g of 1,6-bis(4-(4-nitrobenzoyl)phenyl)hexane was obtained as crystals by recrystallizing from a mixed solvent of chloroform and ethyl acetate.

reactant | aluminum chloride | 33.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | paranitrobenzoyl chloride | 40.8 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1,6-diphenylhexane | 23.6 g | C1(=CC=CC=C1)CCCCCCC1=CC=CC=C1 | C18H22
solvent | 1,2-dichloroethane | 50 milliliters | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 milliliters | ClCCCl | C2H4Cl2
product | 1,6-bis(4-(4-nitrobenzoyl)phenyl)hexane | 56.0 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CCCCCCC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C32H28N2O6
